Name:  ___                          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I am depressed."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
History of Present Illness: For complete history, please see
initial ED consult note by Dr. ___, which we have
reviewed.  Briefly, this is a ___ yo M ___ student on ___
from ___ after disclosing worsening depression and SI with
different plans to jump off balcony, stab self with knife, in
context of break-up with long-term girlfriend.  Of note, they
share an apartment, making break-up complicated.  He has
depressed mood, insomnia, decreased appetite, decreased energy,
normal concentration, anhedonia reported in ED, though now
denying this symptom, also feeling hopeless.  He sometimes
pinches self with fingers to help cope starting a week ago.  He
feels SI with thoughts reported to ED doctors and ___ of jumping off a building, feels concerned he would go
through with this if not in the hospital.  
     On interview, he had a bad break-up last week, was feeling
extremely sad since this time.  He didn't know how to make the
bad feelings go away. Her ex-girlfriend told him to see a
therapist at ___, who recommended to come into the hospital.  He
is thinking of "death as a way to relieve my sadness."  He 
denies
having any plan previously mentioned to ED psychiatrist.  He
currently denies that he would hurt himself if not in the
hospital.  He denies ever feeling depressed before this 
break-up.
He corroborated depressive symptoms noted above.  He is still
close with ex-girlfriend, knows her for ___ years, lives with her,
still in an apartment together.   
     The patient denies AVH, denies paranoia, denies HI.  
Patient
denies symptoms of mania such as elevated mood, decreased need
for sleep, racing thoughts, increased talkativeness, increased
risky and goal-directed behaviors.  He denies nightmares,
flashbacks, or avoidance symptoms or past trauma.  He states had
been on a diet since ___ related to concerns that he was
"quite fat", deliberately lost 20 lbs during this time, denies
any purging, diuretic or laxative use.  
     He states if SI becomes worse that he would be willing to
discuss with psychiatry team.  
     As per ED collateral from ___ referral note (___) and from Dr. ___, on-call ___
clinician, he reported to them "suicide is only way for this to
end", said to clinician there that he was thinking about 
stabbing
himself with a knife, also sometimes with thoughts of jumping 
off
a building (his balcony at home).  He was not interested in
further ___ treatment and ___ clinicians were concerned for
his safety.

ED Course: There were no acute behavioral or medical events in
the ED.  
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Diagnoses: None
- Hospitalizations: None
- Current treaters and treatment: None
- Medication and ECT trials: None
- Self-injury: Currently has been "pinching" his skin for the
past 1.5 weeks "to feel something"
- Harm to others: Denies
- Access to weapons: Denies

PAST MEDICAL HISTORY:
- None
- Denies h/o head injuries or seizure

 
Social History:
SOCIAL HISTORY:
- Born/raised, childhood: Born in ___, has three younger
sisters. Moved to ___, ___ at age ___. Later moved to 
___
at ___ for high school. Moved to ___ to attend ___.
- Education: ___ at ___, studying at the
___ school, states he has a 3.3 GPA, states he "likes it"
but does not have many friends there
- ___ of income: Not working
- Housing: Lives in an off-campus apartment with his now
ex-girlfriend
- Relationship Status: Recent breakup with ex-girlfriend, see 
HPI
- Children: None
- Trauma/Abuse: Denies
- Access to weapons: Denies

SUBSTANCE ABUSE HISTORY:
- EtOH: Denies
- Tobacco: Denies
- Marijuana: Denies
- Denies any illicit drug use

FORENSIC HISTORY:
- Arrests: denies
- Convictions and jail terms: denies
- Current status (pending charges, probation, parole): NA

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Completed or attempted suicide: denies
- Substance use or dependence: denies
- Mental Illness: denies
 
Physical Exam:
ADMISSION PHYSICAL
==================
VS:  T 98, P 77, BP 120/75, RR 16, O2 Sat 98% RA
Gen: NAD, thin, sitting comfortably.
HEENT: PERRLA, EOMI, MMM, no carotid bruits, no JVD
Ht: RRR, no MRG
Lungs: CTAB, symmetric chest wall motion, no increased work of
breathing
Abd: Soft, nontender, nondistended, normoactive bowel sounds.  
Ext: No leg tenderness, edema or erythema bilaterally, 2+
bilateral ___ pulses
Skin: acne on forehead
Neuro-
Cranial Nerves-CN II-XII intact.  
Motor:
Moving all extremities, ___ proximal and distal bilateral arm 
and
leg strength
2+ biceps and patellar reflexes bilaterally

Sensation: Normal light touch sensation of proximal and distal
extremities bilaterally
Coordination:
     Finger-nose-finger: intact
     Fine finger tapping: intact
     Heel to shin: intact
Gait/Romberg: Normal
Neurological:
    *station and gait: WNL  
    *tone and strength: Moving all extremities.
    cranial nerves: CN II-XII intact
    abnormal movements: No tremors, tics or dyskinesias, no
psychomotor agitation or retardation.
    frontal release: None 

  *Appearance: Patient is a young, thin college-aged Asian male
who appears stated age, hygiene and grooming is good, found in
hospital gown with untied sneakers.  Initially speaking to
ex-girlfriend, who appears to have been visiting him for 
support.

  Behavior: Patient able to have calm discussion with examiner,
superficially cooperative but minimizing symptoms, denying SI
with plan as previously stated to ___ clinician and to ED
psychiatrist.
  *Mood and Affect: "feeling confused about why I am here"; full
range of affect, reactive, mood congruent, not labile, slight
incongruence reactivity and brightness given severe depression
with SI.
  *Thought process: Linear, logical, goal-oriented.  No LOA.  
  *Thought Content: Sometimes SI with thoughts of "thinking 
about
death", minimizing/denying symptoms of SI with plan to jump off 
a
building or stab self with knife as reported to other treaters
within past ___ days, currently denying intent.  Denies HI.
Denies AH or VH.  Denies paranoia.  
  *Judgment and Insight: Limited/limited-minimizing symptoms,
denying SI with plan in manner as was previously stated to ___
clinician and ED psychiatrist
    Cognition:
    *Attention, *orientation, and executive function: A and Ox3,
attends to interview, MOYB x 12.  
    *Memory: ___ registration, ___ recall
    *Fund of knowledge: Knows the president, ___ wrote
"Hamlet",
    Abstraction: "apples/oranges"- fruits, "don't judge a book 
by
it's cover" means "can't judge something on its surface"
    Calculation: $1.75 has 7 quarters
    
    *Speech: Regular rate, rhythm, tone, prosody and volume 
    *Language: Fluent ___

 
Pertinent Results:
ADMISSION LABS
==============
 ___: Na: 148*
 ___: K: 4.1
 ___: Cl: 107
 ___: CO3: 25
 ___: BUN: 13
 ___: Creat: 1.0
 ___: Glucose: 83

___: WBC: 11.0*
 ___: HGB: 14.9
 ___: HCT: 44.3
 ___: Plt Count: 245

 ___: Urine Glucose (Hem): NEG
 ___: Urine Protein (Hem): 30
 ___: Urine Bilirubin (Hem): NEG
 ___: Urobilinogen: 2*
 ___: Urine Ketone (Hem): 40
 ___: Urine Blood (Hem): NEG
 ___: Urine Nitrite (Hem): NEG
 ___: Urine Leuks (Hem): NEG

Serum toxicology: negative
 Urine toxicology: negative

DISCHARGE LABS
==============
___: Na: 138
 ___: K: 4.1
 ___: Cl: 101
 ___: CO3: 28
 ___: BUN: 11
 ___: Creat: 1.0
 ___: Glucose: 87

___: WBC: 7.8
 ___: HGB: 14.2
 ___: HCT: 43.0
 ___: Plt Count: 231

 
Brief Hospital Course:
SAFETY:  The Pt. was placed on 15 minute checks on admission and 
 remained here on that level of observation throughout. He was  
unit-restricted. There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:
#ADJUSTMENT DISORDER WITH DEPRESSED MOOD
___ yo M sent from ___ after disclosing worsening depression and 
SI in context of break-up with long-term girlfriend. The patient 
was diagnosed with adjustment disorder with depressed mood given 
the initial presentation of low mood, decreased appetite, 
decreased sleep, and SI for the first time less than two weeks 
after identified psychosocial stressor. SI is a disproportionate 
response to what would be expected for the end of a college 
relationship. However on exam the patient was found to be calm 
and largely cooperative, explaining that he had just been sad 
and death would be a way to deal with the emotion, but strongly 
denied any suicidal intent; "it wasn't really suicide, just 
wanting it to go away. I'm not the type of person to commit 
suicide." He was also not hopeless, demonstrating concern about 
studying for final exams at ___. In the future if depressive 
symptoms were to persist for longer than 3 months, or if he 
shows depressive symptoms more than six months after the 
breakup, major depressive disorder without psychotic features 
should be ruled out. The patient was not started on any 
medications during hospitalization. On his first day of 
admission he called his parents in ___ and reports he told 
them about the reasons for hospitalization and SI. His mother 
flew in from ___ and met with the Pt on the second day of 
admission. On the third day of admission the patient denied SI 
and endorsed willingness to seek therapy. He also expressed 
interest in returning to his coursework at ___. The Pt, mother 
and care team were in agreement that Mr. ___ should be 
discharged and, under the mother's close supervision, complete 
his final exams before his pre-scheduled trip home to ___ for 
___ Break. At this time, Mr. ___ is safe to return to classes 
at ___. On day of discharge, his mood is "very good", he has a 
bright affect, shows good insight, and he is looking forward to 
returning home and getting prepared for his final exams next 
week.

MEDICAL
#HYPERNATREMIA
At presentation on ___, patient had borderline high Na of 148. 
Labs drawn in the morning on ___ showed that hypernatremia had 
resolved with Na of 138. Patient reports decreased appetite 
prior to admission. After hospitalization he had good PO intake. 
Most likely patient was dehydrated at time of admission.  

#LEUKOCYTOSIS
Patient presented with ___ to 11.0 on ___. There were no 
localizing signs or symptoms of infection. Subsequent labs drawn 
on ___ showed that leukocytosis had spontaneously resolved 
with WBC at 7.8. Given mood at presentation as well as ___ at ___, most likely WBC elevation was secondary to stress.  

PSYCHOSOCIAL:
#) GROUPS/MILIEU: 
Mr. ___ was very often visible and social in the milieu with his 
peers. He attended groups regularly while on the unit. 

#) COLLATERAL CONTACTS: 
Collateral was obtained from the patient's mother. She flew in 
from ___ when the Pt told his family he had been hospitalized. 
Prior to discharge she met with the Pt for four hours, and is 
living with the Pt after discharge. Per the patient's report, 
the ex-girlfriend was worried about him and encouraged him to 
see a school therapist. Further collateral obtained from ___ 
referral note. ___ at ___ 
evaluated the patient at the ___'s ___ 
walk-in triage. She remarks that the patient had been pinching 
himself as a form of SIB with ideation of cutting himself, and 
possibly suicide with plan of stabbing himself or jumping off a 
building, potentially the balcony at his apartment. Regarding 
suicide, the patient reportedly admitted he's, "'not against 
it... doesn't matter... don't care if I die or not... just want 
it to go away.'" Ms. ___ noted, "He is vague about his 
intent." She also identified that the patient lacked 
identifiable, "supports, coping, or plan for the evening." Dr. 
___ was the ___ on-call clinician 
and read the session note from the emergency walk-in triage. 

#) FAMILY INVOLVEMENT:
Two younger sisters and parents live in ___, and one younger 
sister lives in ___. Upon admission the patient called his family 
in ___ and reports he told them that he was admitted to the 
hospital for depression and SI following the breakup. The mom 
booked a flight in the same day with plans to stay with the Pt 
until ___ break.  During ___ Break the Pt had plans prior 
to admission to go to ___ to spend time with family.  

RISK ASSESSMENT:

#) Chronic/Static Risk Factors
Age, gender, potential history of SIB (Report from ___ mental 
___ that patient was pinching himself as form of SIB) 

#) Modifiable Risk Factors:
1. Depressed mood: Pt noted depressed mood with neurovegetative 
symptoms when he presented to the ED. Once on the psychiatry 
unit, pt reported that speaking to his family and getting some 
distance from the situation (a recent break-up), had improved 
his mood substantially. Connection with his family and the 
ability to talk through his feelings had great effect on Mr. 
___ mood and future outlook. 
2. Lack of outpatient treaters: We have connected Mr. ___ with 
outpatient ___ care through ___. 

#) Protective Factors: Lack of psychiatric history (including no 
history of suicide attempts), help-seeking behavior, supportive 
and involved family, lack of substance use

PROGNOSIS:
Highly favorable - The patient has a high likelihood of doing 
very well in the long term. Around 80% of patients with 
adjustment disorder will have no psychiatric diagnoses at ___ 
___. He does not have history of mood or personality 
disorders, and no history of prior SI, all of which would 
predispose the patient to adverse long-term outcome. Perhaps 
most important to the Pt's prognosis, the patient will be 
discharged with strong family support who can provide short-term 
care. The patient's lack of social support in ___ after the 
breakup was one of the main contributing factors to the patient 
feeling helplessness after the breakup. His mother will be 
living with him until he returns home to spend time with family 
over ___ Break. After this period, the patient has expressed 
interest in seeking longer-term therapy to develop better coping 
strategies. We have connected him with outpatient ___ 
care, of which he is looking forward to receiving. 
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder with depressed mood

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___